US07514566B2
(2S,3S,E)-2-(tert-Butoxycarbonyl)-3-(4-(trifluoromethyl)phenyl)hex-4-enyl pivalate (1.8 g, 4.1 mmol) was taken up in 40 mL of 1:1 MeOH:CH2Cl2 and chilled to −78° C. Ozone was bubbled through the mixture until a blue color persisted. Nitrogen was then bubbled through the mixture for 15 minutes. Sodium borohydride (0.77 g, 20 mmol) was added, and the mixture was warmed to room temperature. The mixture was stirred for 2 hours. The mixture was quenched with 40 mL of aqueous NH4Cl. After 30 minutes, the mixture was diluted with 20 mL of water and extracted three times with 40 mL of CH2Cl2. The combined organic extracts were dried over MgSO4. Filtration and concentration under reduced pressure afforded (2S,3S)-2-(tert-butoxycarbonyl)-4-hydroxy-3-(4-(trifluoromethyl)phenyl)butyl pivalate (1.8 g, 100% yield) as a white crystalline solid.

reactant | (2S,3S,E)-2-(tert-Butoxycarbonyl)-3-(4-(trifluoromethyl)phenyl)hex-4-enyl pivalate | 4.1 mmol, 1.8 g | C(C(C)(C)C)(=O)OC[C@H]([C@H](\C=C\C)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC(C)(C)C | C23H31F3O4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | Sodium borohydride | 20 mmol, 0.77 g | [BH4-].[Na+]
reactant | MeOH | 40 mL | CO | CH4O
product | (2S,3S)-2-(tert-butoxycarbonyl)-4-hydroxy-3-(4-(trifluoromethyl)phenyl)butyl pivalate | 1.8 g, 100% yield | C(C(C)(C)C)(=O)OC[C@H]([C@H](CO)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC(C)(C)C | C21H29F3O5
